US07956195B2
The (1R,3S)-1-amino-3-(4-bromo-phenyl)-cyclopentanecarboxylic acid (79 g, 0.28 mol) suspended in MeOH (1.8 L) was cooled in an ice/water bath and thionyl chloride (178 mL, 2.44 mol) was added dropwise. Following the addition the reaction was heated to reflux. After 2 days the reaction mixture was cooled to room temperature, filtered, and rinsed with MeOH (2×200 mL). The filtrate was concentrated in vacuo to provide a white solid. The white solid was triturated with EtOAc (1 L), collected by filtration, rinsed with EtOAc (2×500 mL), and dried under vacuum to give the (1R,3S)-1-amino-3-(4-bromo-phenyl)-cyclopentanecarboxylic acid methyl ester; hydrochloride as a white solid (79 g, 96%).

reactant | (1R,3S)-1-amino-3-(4-bromo-phenyl)-cyclopentanecarboxylic acid | 0.28 mol, 79 g | N[C@]1(C[C@H](CC1)C1=CC=C(C=C1)Br)C(=O)O | C12H14BrNO2
reactant | thionyl chloride | 2.44 mol, 178 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 1.8 L | CO | CH4O
product | (1R,3S)-1-amino-3-(4-bromo-phenyl)-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@@]1(C[C@H](CC1)C1=CC=C(C=C1)Br)N | C13H16BrNO2
